US09023840B2
Step 9: 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide
4-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide was dissolved in dichloromethylene (5 mL). To the solution was added trifluoroacetic acid (TFA) (2.5 mL). The mixture was stirred at room temperature for 1 hour. The volatiles were removed under reduced pressure. The residue was dissolved in methanol (10 mL). To the solution was added ethylenediamine (1 mL). The mixture was stirred at room temperature for 4 hours, and was purified by RP-HPLC (pH=10) to afford the desired product (0.415 g). LCMS (M+H)+: m/z=440.1. The high purity (99.6%) of the product was obtained by re-crystallization from acetone-ether. 1H NMR (400 MHz, CDCl3): δ 9.57 (s, 1H), 8.31 (d, J=4.9 Hz, 1H), 8.15 (s, 1H), 8.11 (s, 1H), 7.70 (m, 2H), 7.39 (d, J=3.4 Hz, 1H), 7.18 (d, J=4.9 Hz, 1H), 6.70 (d, J=3.4 Hz, 1H), 6.55 (m, 2H), 5.79 (d, J=7.8 Hz, 1H), 4.47 (d, J=8.3 Hz, 2H), 4.38 (d, J=8.3 Hz, 2H), 4.27 (m, 1H), 3.45 (s, 2H), 1.25 (d, J=6.7 Hz, 6H).

reactant | 4-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C31H39N7O2Si
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | 0.415 g | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C25H25N7O
